US07148357B2
8.747 g (19.4 mmol) of 2-[(2-bromo-pyridin-4-ylmethyl)-amino]-N-(3-trifluoromethyl-phenyl)-benzamide is heated with 175 mg of copper(I) oxide in 150 ml of ethanediol for 23 hours under 10 bar of ammonia pressure to 80° C. in an autoclave. After the solvent is distilled off in a vacuum, the residue is purified on silica gel with a gradient of ethyl acetate:ethanol=100:0 to 0:100 as an eluant. 4.15 g (51% of theory) of 2-[(2-amino-pyridin-4-ylmethyl)-amino]-N-(3-trifluoromethyl-phenyl)-benzamide with a melting point of 64° C. is obtained.

reactant | 2-[(2-bromo-pyridin-4-ylmethyl)-amino]-N-(3-trifluoromethyl-phenyl)-benzamide | 19.4 mmol, 8.747 g | BrC1=NC=CC(=C1)CNC1=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C=CC=C1 | C20H15BrF3N3O
reactant | ammonia | N | H3N
solvent | ethanediol | 150 ml | C(C)(O)O | C2H6O2
catalyst | copper(I) oxide | 175 mg | [Cu-]=O
product | 2-[(2-amino-pyridin-4-ylmethyl)-amino]-N-(3-trifluoromethyl-phenyl)-benzamide | 4.15 g, 51% | NC1=NC=CC(=C1)CNC1=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C=CC=C1 | C20H17F3N4O
